*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.20e-03[uF]/630[V]
* Murata P/N :GCH21B5C2J222JX0A
* Property : C = 2.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCH21B5C2J222JX0A Port1 Port2
C01 Port1 N01 2.20e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 2.43e-10
R03 N02 N03 1.52e-03
L04 N03 N04 1.80e-10
R04 N03 N04 2.19e+00
L05 N04 N05 1.16e-10
R05 N04 N05 1.69e-02
C06 N05 N06 4.53e-08
L06 N05 N06 3.51e-04
R06 N05 N06 1.26e+02
C07 N06 N07 6.62e-09
L07 N06 N07 5.05e-11
R07 N06 N07 1.23e+00
C08 N07 N08 3.90e-09
L08 N07 N08 4.03e-11
R08 N07 N08 1.13e+00
C09 N08 N09 8.05e-09
L09 N08 N09 9.90e-12
R09 N08 N09 3.17e-01
C10 N09 Port2 5.08e-09
L10 N09 Port2 9.68e-12
R10 N09 Port2 3.25e-01
.ENDS GCH21B5C2J222JX0A
